US06169091A
4-(4-Benzyloxyanilino)-6-(N-methylimidazol-5-yl)pyrido[3,4-d]pyrimidine
Prepared according to Procedure B from 4-(4-benzyloxyanilino)-6-chloropyrido[3,4-d]pyrimidine and 5-(tri-n-butylstannyl)-N-methylimidazole (prepared according to the published method: Acta Chem. Scand., (1993), 47(1), 57); δH [2H6]-DMSO 10.00 (1H,s), 9.15 (1H,s), 8.65 (1H,s), 8.60 (1H, s), 7.80 (1H,s), 7.61(2H,d), 7.50 (1H,s), 7.25-7.49 (5H,m), 7.10 (2H,d), 5.13 (2H,s), 3.98 (3H,s); m/z (M+1)+409.

reactant | 4-(4-benzyloxyanilino)-6-chloropyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(NC=2C3=C(N=CN2)C=NC(=C3)Cl)C=C1 | C20H15ClN4O
reactant | 5-(tri-n-butylstannyl)-N-methylimidazole | C(CCC)[Sn](C1=CN=CN1C)(CCCC)CCCC
product | 4-(4-Benzyloxyanilino)-6-(N-methylimidazol-5-yl)pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(NC=2C3=C(N=CN2)C=NC(=C3)C3=CN=CN3C)C=C1 | C24H20N6O
